US08865894B2
Step 23.10: (S)-benzyl (1-hydroxypropan-2-yl)(4-methoxybenzyl)carbamate
To a solution of (S)-2-(((benzyloxy)carbonyl)(4-methoxybenzyl)amino)propanoic acid [439589-23-8] (16 g, 41.9 mmol) in THF (150 mL) was slowly added under argon borane dimethylsulfide (8.4 mL, 84 mmol) at 0-5° C. The reaction mixture was stirred for 1 h at 0-5° C. followed by 3 h at 40-45° C. Excess borane was destroyed by careful addition of MeOH and the reaction mixture was evaporated 3× with 200 mL MeOH and 2× with CHCl3. The title compound was obtained after drying as a colorless oil (13.7 g, 99%): TLC (hexane/EtOAc 1:1) Rf=0.22; tR=1.06 min (UPLC 1), tR, 1.02 min (LC-MS 3); ESI-MS: 330 [M+H]+ (LC-MS 3).

reactant | (S)-2-(((benzyloxy)carbonyl)(4-methoxybenzyl)amino)propanoic acid | 41.9 mmol, 16 g | C(C1=CC=CC=C1)OC(=O)N([C@H](C(=O)O)C)CC1=CC=C(C=C1)OC | C19H21NO5
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | (S)-benzyl (1-hydroxypropan-2-yl)(4-methoxybenzyl)carbamate | OC[C@H](C)N(C(OCC1=CC=CC=C1)=O)CC1=CC=C(C=C1)OC | C19H23NO4
